US03962440
2(1H), 3(4H)-QUINOXALINEDIONE
o-Phenylenediamine (10 grams) and ethyl oxalate (100 ml.) were mixed and the mixture was heated, with stirring, to reflux and refluxed for 30 minutes. The reaction mixture was then cooled and the resulting precipitate, the desired 2(1H), 3(4H)-quinoxalinedione, was separated by filtration. The product did not melt below 400°C. It was recrystallized from a mixture of dimethylformamide and water, yielding a purified product which did not melt below 405°C. The identity of the product was confirmed by NMR and IR. Elemental analysis showed

reactant | o-Phenylenediamine | 10 grams | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | ethyl oxalate | 100 ml | C(C(=O)[O-])(=O)OCC
product | 2(1H), 3(4H)-QUINOXALINEDIONE | N1C(C(NC2=CC=CC=C12)=O)=O | C8H6N2O2
